US07777047B2
4-methyl-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid
A solution of ethyl 1-(methoxymethyl)-4-methyl-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylate (4.0 g), 6N hydrochloric acid (20 ml), tetrahydrofuran (20 ml) and ethanol (60 ml) was stirred at 80° C. for 4 hr. The reaction solution was concentrated under reduced pressure, and the obtained residue was diluted with ethyl acetate. The mixture was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained solid was dissolved in a mixed solvent of tetrahydrofuran (40 ml) and methanol (40 ml), an aqueous solution (20 ml) of 85% potassium hydroxide (2.2 g) was added to this solution, and the mixture was stirred at room temperature for 18 hr. The reaction solution was concentrated under reduced pressure, and the obtained residue was acidified with aqueous citric acid solution. The precipitated crystals were collected by filtration, washed with water, and dried to give the title compound (3.3 g, yield 99%) as colorless crystals. MS: 351 (MH+). melting point 223-225° C.

reactant | ethyl 1-(methoxymethyl)-4-methyl-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylate | 4.0 g | COCN1C(=CC2=C(C=CC(=C12)N(S(=O)(=O)C=1SC=CC1)C)C)C(=O)OCC | C19H22N2O5S2
reactant | hydrochloric acid | 6N, 20 ml | Cl | ClH
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 4-methyl-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid | 3.3 g, yield 99% | CC1=C2C=C(NC2=C(C=C1)N(S(=O)(=O)C=1SC=CC1)C)C(=O)O | C15H14N2O4S2
